US05284857
N-Methoxy-N-methyl-3.3-dimethylacrylamide
3,3-Dimethylacryloyl chloride (28.2 mL, 0.253 mol) was slowly added to a mixture of N,O-dimethylhydroxylamine hydrochloride (27.2 g, 0.278 mol) and triethylamine (75 mL, 0.519 mol) in dichloromethane (300 mL) at 0° to 30° C. and stirred 1 h at 0° C. The resultant mixture was washed with 1 N hydrochloric acid and then with 1 N sodium hydroxide and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue vacuum distilled (60° to 70° C. at 0.2 mm Hg) to give the product, 26.8 g (74%) as a colorless oil; IR(neat): 2938 and 1660 cm-1 : MS: m/z 144 (MH+); 1H NMR(CDCl3): δ 1.91 (d, J=1.2 Hz, 3H), 2.14 (d, J=0.9 Hz, 3H), 3.20 (s, 3H), 3.68 (s, 3H), and 6.12 (bs, 1H).

reactant | 3,3-Dimethylacryloyl chloride | 0.253 mol, 28.2 mL | CC(=CC(=O)Cl)C | C5H7ClO
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.278 mol, 27.2 g | Cl.CNOC
reactant | triethylamine | 0.519 mol, 75 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | N-Methoxy-N-methyl-3.3-dimethylacrylamide | CON(C(C=C(C)C)=O)C | C7H13NO2
